US08114902B2
(23-3) Synthesis of 4-{2-[2′-fluoro-4′-(phenylthio)biphenyl-4-yl]ethyl}-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline
A solution of 4-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline (201 mg), benzenethiol (42 mg), diisopropylethylamine (89 mg), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (17.8 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (19.9 mg) in 1,4-dioxane (2 mL) was heated under reflux for 15 hr under a nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (103 mg) as a yellow oil.

reactant | 4-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline | 201 mg | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)CCC1(N=C(OC1)C)COP(=O)(C(C)(C)C)C(C)(C)C)F | C27H36BrFNO3P
reactant | benzenethiol | 42 mg | C1(=CC=CC=C1)S | C6H6S
reactant | diisopropylethylamine | 89 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 19.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 17.8 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | Water | O | H2O
product | 4-{2-[2′-fluoro-4′-(phenylthio)biphenyl-4-yl]ethyl}-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline | 103 mg | FC1=C(C=CC(=C1)SC1=CC=CC=C1)C1=CC=C(C=C1)CCC1(N=C(OC1)C)COP(=O)(C(C)(C)C)C(C)(C)C | C33H41FNO3PS
